US06204260B1
2-(trimethylsilyl)ethyl 2-(oximino)acetoacetate
To a solution of 18.24 gm (90.3 mMol) 2-(trimethylsilyl)ethyl acetoacetate in 10 mL acetic acid at −4° C. was added a solution of 6.85 gm (99.3 mMol) sodium nitrite in 30 mL of water dropwise over 15 minutes. The reaction mixture was allowed to warm to room temperature while stirring. After 2 hours the reaction mixture was diluted with 100 mL ethyl acetate and washed twice with 50 mL portions of saturated aqueous sodium chloride. The organic phase was dried over sodium sulfate and concentrated under reduced pressure. The residual was dissolved in toluene and concentrated under reduced pressure twice to azeotropically remove any remaining acetic acid. The residual oil was finally subjected to flash silica gel chromatography, eluting with hexane containing 30% ethyl acetate. Fractions shown to contain product were combined and concentrated under reduced pressure to provide 12.04 gm (58%) of the desired compound as a colorless oil.

reactant | 2-(trimethylsilyl)ethyl acetoacetate | 90.3 mMol, 18.24 gm | C(CC(=O)C)(=O)OCC[Si](C)(C)C | C9H18O3Si
reactant | sodium nitrite | 99.3 mMol, 6.85 gm | N(=O)[O-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | 30 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(trimethylsilyl)ethyl 2-(oximino)acetoacetate | 12.04 gm, 58% | N(O)=C(C(=O)OCC[Si](C)(C)C)C(=O)C | C9H17NO4Si
